US06855716B2
Synthesis of 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
10 ml of pyridine was added to a mixture of 512 mg (1.38 mmol) of benzyl 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylate and 180 mg (1.66 mmol) of ethyl chloroformate, and they were stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, then washed with water and saturated aqueous sodium chloride solution and concentrated under reduced pressure. The product was dissolved in a mixture of 5 ml of methanol and 5 ml of THF. 3 N hydrochloric acid was added to the obtained solution, and they were stirred at room temperature for 10 minutes. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with 1 N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the crude title compound.

reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | benzyl 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 1.38 mmol, 512 mg | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(=O)OCC1=CC=CC=C1)C)OC | C20H19ClN2O3
reactant | ethyl chloroformate | 1.66 mmol, 180 mg | ClC(=O)OCC | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(N(C(NC1C)=O)C(=O)OCC)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C30H30ClN3O4
